US05034141
438.9 g (520.6 ml, 3 moles) of 1-octanethiol were refluxed (with stirring) for about 1 hour with 66 g. (1 mole 85% purity) potassium hydroxide flakes. 72.5 ml (91.33 g., 1.2 moles) of CS2 were then added (dropwise) with stirring to the mixture which had been cooled to 0° C. in an ice-water bath. The mixture was stirred for about 1 hour after addition was complete, and then allowed to warm to room temperature. The resulting white solid precipitate was filtered, thoroughly washed with anhydrous ethyl ether, and dried overnight in a vacuum oven at 35° C. 250.1 g. of potassium octylthioxanthate were obtained (96% yield).

reactant | 1-octanethiol | 3 moles, 520.6 ml, 438.9 g | C(CCCCCCC)S | C8H18S
reactant | potassium hydroxide | 1 mole | [OH-].[K+]
reactant | CS2 | 1.2 moles, 72.5 ml, 91.33 g | C(=S)=S | CS2
product | potassium octylthioxanthate | 96% yield | C(CCCCCCC)SC(=S)[S-].[K+] | InChI=1S/C9H18S3.K/c1-2-3-4-5-6-7-8-12-9(10)11;/h2-8H2,1H3,(H,10,11);/q;+1/p-1
